US08071774B2
b) 6-Methoxy-7′,8′-dihydro-6′H-spiro[1-benzofuran-3,5′-quinazoline]
A solution of 1 mmol of 5-(2-bromo-5-methoxyphenoxymethyl)-7,8-dihydroquinazoline, 0.5 mmol of azoisobutyronitrile (AIBN) and 1.5 mmol of tributyltin hydride in 50 ml of benzene is heated at reflux for 1-2 hours. The reaction solution is concentrated and the residue is taken up in diethyl ether. The solution is admixed with 1M NaOH and stirred vigorously at room temperature for 1 hour. The phases are separated and the organic phase is washed with 1M sodium hydroxide solution and brine, dried with sodium sulphate and evaporated. From the residue the title compound is identified by means of flash chromatography (SiO2 60F) on the basis of the Rf value.

reactant | 5-(2-bromo-5-methoxyphenoxymethyl)-7,8-dihydroquinazoline | 1 mmol | BrC1=C(OCC=2C=3C=NC=NC3CCC2)C=C(C=C1)OC | C16H15BrN2O2
reactant | tributyltin hydride | 1.5 mmol | C(CCC)[SnH](CCCC)CCCC
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 6-Methoxy-7′,8′-dihydro-6′H-spiro[1-benzofuran-3,5′-quinazoline] | COC1=CC2=C(C=C1)C1(C=3C=NC=NC3CCC1)CO2 | C16H16N2O2
